US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for Example 369 and using 5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting acetyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 30 mg (55%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) δ 8.34 (s, 1 H) 7.81 (s, 1 H) 7.77 (d, 1 H) 7.62 (d, 1 H) 7.32-7.40 (m, 2 H) 7.19 (d, 1 H) 7.03-7.10 (m, 2 H) 6.55 (s, 1 H) 5.61 (s, 2 H) 4.63 (d, 1 H) 4.00 (d, 1 H) 3.45 (tt, 1 H) 3.25 (td, 1 H) 2.75 (td, 1 H) 2.07-2.18 (m, 5 H) 1.62-1.72 (m, 2 H).

reactant | 5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | FC1=CC=C(CN2N=C3C=C(C=CC3=C2)C=2C=C(N3N=CN=C(C32)N)C3CCNCC3)C=C1 | C25H24FN7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 7-(1-acetylpiperidin-4-yl)-5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 30 mg, 55% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=C(C=C2)F | C27H26FN7O
